US07576105B2
To a solution of 1-(tert-butoxycarbonyl)-4-piperidone (10.0 g, 50.2 mmol), benzylamine (5.4 g, 50.2 mmol), and acetic acid (3.01 g, 50.2 mmol) in 200 mL of dry dichloromethane was added sodium triacetoxyborohydride (21.2 g, 100 mmol) under nitrogen. The mixture was stirred for three days, and then aqueous 1 N NaOH (200 mL) solution was added. After 1 h of stirring, the layers were separated, and the aqueous layer was extracted twice with dichloromethane (100 mL). The organic extracts were combined, washed twice with 1 N NaOH (100 mL), dried (Na2SO4), and concentrated to give 13.46 g of 4-benzylamino-1-(tert-butoxycarbonyl)piperidine as a cream-colored waxy solid. MS (ES), m/z 291 (MH+). 300 MHz 1H NMR (CDCl3) δ1.22-1.39 (br q, 2H), 1.45 (s, 9H), 1.86 (br d, J=11.3 Hz, 2H), 2.60-2.93 (m, 4H), 3.82 (s, 2H), 3.85-4.20 (br m, 2H), 7.19-7.37 (m, 5H).

reactant | 1-(tert-butoxycarbonyl)-4-piperidone | 50.2 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | benzylamine | 50.2 mmol, 5.4 g | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 50.2 mmol, 3.01 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 100 mmol, 21.2 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 N, 200 mL | [OH-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4-benzylamino-1-(tert-butoxycarbonyl)piperidine | 13.46 g | C(C1=CC=CC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C17H26N2O2
